US07648990B2
2-(R)-(4-Fluoro-2-methyl-phenyl)-4-oxo-3,4-dihydro-2H-pyridine-1-carboxylic acid, (1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl ester (6b)
A solution of (−)-menthyl chloroformate (3.53 mL) in dry THF (15 mL) was added to a solution of 4-methoxypyridine (1.52 mL) in dry THF (35 mL) previously cooled to −78° C. under a nitrogen atmosphere. After 15 minutes, the solution containing the 4-fluoro-2-methyl-phenyl magnesium bromide was added drop-wise, and the mixture was stirred at −78° C. for 1 hour. The reaction was quenched by the addition of 1M hydrochloric acid solution (20 mL), warmed to r.t. and stirred at 23° C. for 30 minutes. After extraction with AcOEt (2×150 mL), the combined organic extracts were washed with brine (50 mL), dried and concentrated in vacuo to a residue, which was purified by flash chromatography (CH/THF/toluene 8:1:1) to give:

reactant | (−)-menthyl chloroformate | 3.53 mL | ClC(=O)OC1CC(CCC1C(C)C)C | C11H19ClO2
reactant | 4-methoxypyridine | 1.52 mL | COC1=CC=NC=C1 | C6H7NO
reactant | 4-fluoro-2-methyl-phenyl magnesium bromide | FC1=CC(=C(C=C1)[Mg]Br)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-(R)-(4-Fluoro-2-methyl-phenyl)-4-oxo-3,4-dihydro-2H-pyridine-1-carboxylic acid, (1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl ester | FC1=CC(=C(C=C1)[C@@H]1N(C=CC(C1)=O)C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)C | C23H30FNO3
